US04025622
1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-(benzimidazol-2-yl)-2-thiourea
To 10 ml of anhydrous xylene were added 390 mg (1 mmol) of 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate and 135 mg (1 mmol) of 2-aminobenzimidazole (MW 133) and the mixture was heated at 100° C. for 1 hour and allowed to cool to room temperature. Crystals formed were filtered off and recrystallized from methanol to give colourless needles melting between 162° and 165° C. (uncorrected). Yield: 245 mg (47%).

reactant | 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate | 1 mmol, 390 mg | C(C)(=O)O[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N=C=S | C15H19NO9S
reactant | 2-aminobenzimidazole | 1 mmol, 135 mg | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-(benzimidazol-2-yl)-2-thiourea | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)NC(=S)NC=1NC2=C(N1)C=CC=C2 | C22H26N4O9S
